US06274705B1
A solution of a-phenylglycine, methyl ester, hydrochloride salt (1.0 g) in THF (25 ml) is cooled to 0° C. and triethylamine (1.38 ml) is added. To this mixture is added a solution of di-tert-butyl dicarbonate (1.08 g) in THF (25 ml), and the mixture allowed to warm to room temperature and stirred at room termperature for about 18 hours. The solution is evaporated and the residue taken up into ethyl acetate (200 ml) and the organic solution washed with 1N HCl, saturated sodium bicarbonate solution, brine, dried over magnesium sulfate, filtered, and evaporated in vacuo to give N-BOC-a-phenylglycine, methyl ester.

reactant | a-phenylglycine, methyl ester, hydrochloride salt | 1.0 g | Cl.C1(=CC=CC=C1)C(N)C(=O)OC
reactant | triethylamine | 1.38 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.08 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | N-BOC-a-phenylglycine, methyl ester | C(=O)(OC(C)(C)C)NC(C(=O)OC)C1=CC=CC=C1 | C14H19NO4
